US07884202B2
0.27 g (1.0 mmol) of adenosine was weighed and placed in a 50 ml two-neck flask equipped with a magnetic rotor and the atmosphere in the flask was replaced with argon. The following materials were added thereinto: 4.0 ml of dimethyl sulfoxide, 1.0 ml of a 3.0 mol/l dimethyl sulfoxide solution of trifluoromethyl iodide, 0.3 ml of a 1.0 mol/l aqueous solution of iron (II) sulfate and 0.2 ml of a 30% hydrogen peroxide aqueous solution. The mixture was stirred at 40 to 50° C. for 20 minutes and then the resulting solution was cooled to room temperature. Formation of 8-trifluoromethyladenosine (19F-NMR yield: 6.7%) was confirmed by 19F-NMR with 2,2,2-trifluoroethanol as an internal standard. 8-Trifluoromethyladenosine was obtained as a white solid (0.01 g, yield: 3.1%) by column chromatography.

reactant | adenosine | 1.0 mmol, 0.27 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | OO | H2O2
catalyst | iron (II) sulfate | S(=O)(=O)([O-])[O-].[Fe+2]
solvent | dimethyl sulfoxide | 3.0 mol/l | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 4.0 ml | CS(=O)C | C2H6OS
product | 8-trifluoromethyladenosine | yield: 6.7% | FC(C=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N)(F)F | C11H12F3N5O4
